US08980877B2
(±)-(E)-3-[1′-Acetyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-acrylic acid methyl ester (240 mg, 0.73 mmol) was hydrolyzed with HCl and AcOH following the procedure described in Example 1, Step A, giving (±)-(E)-3-[1′acetyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-acrylic acid as a white solid (135.5 mg, 0.43 mmol, 59%). The acid was treated with NH2OTHP according to the procedure described in Example 1, Step C, giving (E)-3-[1′-acetyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide as a light yellow solid (82 mg, 0.20 mmol, 46%). Finally, removal of THP protecting group following the procedure described in Example 2, Step D gave (±)-(E)-3-[1′-acetyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-N-hydroxy-acrylamide (64.2 mg, 97%) as a red solid.

reactant | (±)-(E)-3-[1′-Acetyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-acrylic acid methyl ester | 0.73 mmol, 240 mg | COC(\C=C\C=1C=C2C(CC3(CN(CC3)C(C)=O)OC2=CC1)=O)=O | C18H19NO5
reactant | HCl | Cl | ClH
solvent | AcOH | CC(=O)O | C2H4O2
product | (±)-(E)-3-[1′acetyl-4-oxo-spiro(chromane-2,3′-pyrrolidine)-6-yl]-acrylic acid | 0.43 mmol, 135.5 mg, 59% | C(C)(=O)N1CC2(CC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C17H17NO5
